US04978793
220 mg 5% Pd/C was added to a solution of 500 mg 2,2-dimethyl-5-nitro-1,3-dioxane (3.1 mmoles) in 30 ml methanol. Ammonium formate (985 mg, 15.6 mmoles) was then added, and the mixture was refluxed for three hours. The reaction solution was then filtered, and the filtrate concentrated in vacuo to yield 286 mg 2,2-dimethyl-5-amino-1,3-dioxane (70% yield).

reactant | 2,2-dimethyl-5-nitro-1,3-dioxane | 3.1 mmoles, 500 mg | CC1(OCC(CO1)[N+](=O)[O-])C | C6H11NO4
reactant | Ammonium formate | 15.6 mmoles, 985 mg | C(=O)[O-].[NH4+]
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd/C | 220 mg | [Pd] | Pd
product | 2,2-dimethyl-5-amino-1,3-dioxane | 286 mg, 70% yield | CC1(OCC(CO1)N)C | C6H13NO2
